US04002764
A suspension of 1.3 g of 6-(o-chlorophenyl)-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol and 3.4 g of manganese dioxide in 200 ml of benzene is refluxed for 2 hours. The reaction mixture is then filtered and the filtrate concentrated by evaporation. The resulting foam is dissolved in a little ethyl acetate and the solution chromatographed on ca. 60 g of silica gel (Merck, 0.063 - 0.2 mm particle size) with ethyl acetate as the eluant. Fractions each of ca. 80 ml are collected. The fractions 4-8 are combined, concentrated by evaporation, and the residue crystallised from an ethyl acetate/ether/petroleum ether mixture to obtain 6-(o-chlorophenyl)-8-chloro-4H-s-triazolo[4,3-a][1,4] benzodiazepine-1-carboxaldehyde, M.P. 182°-189°.

reactant | 6-(o-chlorophenyl)-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol | 1.3 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)CO | C17H12Cl2N4O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 3.4 g | [O-2].[O-2].[Mn+4]
product | 6-(o-chlorophenyl)-8-chloro-4H-s-triazolo[4,3-a][1,4] benzodiazepine-1-carboxaldehyde | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C=O | C17H10Cl2N4O
